US06225311B1
To a solution of 1.00 g (2.653 mmol) of methyl 2-[{[4-(2-butynyloxy)phenyl]sulfonyl}(2-propynyl)amino]-3-methylbutanoate in 8.0 mL of dioxane was added 0.198 g (6.632 mmol) of paraformaldehyde, 10 mg of cuprous chloride, 1.0 mL of acetic acid and 0.55 ml (5.305 mmol) diethylamine. The resulting mixture was stirred at room temperature for 15 minutes after which the reaction had turned green. The reaction was then heated to reflux for 2 h, after which the reaction had turned brown- The reaction mixture was cooled to room temperature and extracted with ether. The combined organics were washed with saturated sodium bicarbonate solution, dried over Na2SO4, filtered and concentrated in vacuo to give 1.23 g of methyl 2-{{[4-(2-butynyloxy)phenyl]sulfonyl}[4-(diethylamino)-2-butynyl]amino}-3-methylbutanoate as a brown oil.

reactant | methyl 2-[{[4-(2-butynyloxy)phenyl]sulfonyl}(2-propynyl)amino]-3-methylbutanoate | 2.653 mmol, 1.00 g | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)N(C(C(=O)OC)C(C)C)CC#C | C19H23NO5S
reactant | paraformaldehyde | 6.632 mmol, 0.198 g | C=O | CH2O
reactant | acetic acid | 1.0 mL | C(C)(=O)O | C2H4O2
reactant | diethylamine | 5.305 mmol, 0.55 ml | C(C)NCC | C4H11N
solvent | dioxane | 8.0 mL | O1CCOCC1 | C4H8O2
product | methyl 2-{{[4-(2-butynyloxy)phenyl]sulfonyl}[4-(diethylamino)-2-butynyl]amino}-3-methylbutanoate | 1.23 g | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)N(C(C(=O)OC)C(C)C)CC#CCN(CC)CC | C24H34N2O5S
